US08877696B2
To a solution of propylamine (5.5 mL, 0.067 mol) in EtOH (100 mL) is added 3-bromo-N,N,N-trimethylpropan-1-aminium bromide (5.0 g, 0.0191 mol) portionwise at 0° C. over 20 minutes. The solution is warmed to room temperature and then refluxed for 4 hours. The solution is cooled to room temperature, and the solvent is removed via rotary evaporator to provide the crude di-bromo salt (5.69 g, 0.0179 mol). The salt is dissolved in MeOH (200 mL) and NaOH is added portionwise (0.717 g, 0.0179 mol) in MeOH (50 mL) over 30 minutes at room temperature. The solution is stirred an additional 2 hours at room temperature after addition is complete and then the solvent is removed via rotary evaporator. The residue is stirred with CH3CN (150 mL) for 30 minutes and the solids filtered off. The filtrate is concentrated via rotary evaporation and the residue is pumped on 24 h under vacuum to provide the 3-(propylamino)-N,N,N-trimethylpropan-1-aminium bromide (4.07 g, 0.017 mol), which is used without further purification. The 3-(propylamino)-N,N,N-trimethylpropan-1-aminium bromide (4.07 g, 0.017 mol) is dissolved in EtOH (100 mL) and 1-bromododecane (4.55 mL, 0.019 mol) is added dropwise over 15 minutes. The reaction is refluxed 24 hours, cooled to room temperature, and solid NaOH (0.68 g, 0.017 mol) is added. The reaction is stirred 2 hours at room temperature, and then the solids are filtered off. The filtrate is concentrated to give a white solid. The solid is dissolved in water (200 mL) and extracted with EtOAc (3×150 mL). The organic layers are combined and discarded, and the aqueous layer is frozen and lyophilized under vacuum for 48 hours to provide 3-(dodecyl(propyl)amino)-N,N,N-trimethylpropan-1-aminium bromide as a white solid (5.29 g, 0.013 mol).

reactant | 3-(propylamino)-N,N,N-trimethylpropan-1-aminium bromide | 0.017 mol, 4.07 g | [Br-].C(CC)NCCC[N+](C)(C)C
reactant | 1-bromododecane | 0.019 mol, 4.55 mL | BrCCCCCCCCCCCC | C12H25Br
reactant | NaOH | 0.017 mol, 0.68 g | [OH-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | 200 mL | O | H2O
product | 3-(dodecyl(propyl)amino)-N,N,N-trimethylpropan-1-aminium bromide | 0.013 mol, 5.29 g | [Br-].C(CCCCCCCCCCC)N(CCC[N+](C)(C)C)CCC | InChI=1S/C21H47N2.BrH/c1-6-8-9-10-11-12-13-14-15-16-19-22(18-7-2)20-17-21-23(3,4)5;/h6-21H2,1-5H3;1H/q+1;/p-1
